US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and m-phenoxybenzyl alcohol, there is obtained m-phenoxybenzyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a syrup, mass spectrum m/e:M+ 420 (14), 327 (13), 237 (35), 194 (100);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | m-phenoxybenzyl alcohol | O(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C13H12O2
product | m-phenoxybenzyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC3=CC(=CC=C3)OC3=CC=CC=C3)=N | C28H24N2O2
